US07169938B2
1728 ml of dry tetrahydrofuran are initially charged with 52 g of lithium aluminium hydride and heated to reflux. At the same time, dropwise addition of 86.4 g of N-methyl-(3S)-3-hydroxy-3-(2-thienyl)propanamide dissolved in 692 g of tetrahydrofuran is commenced. Once dropwise addition is complete, stirring is continued under reflux overnight. The reaction mixture is then cooled to room temperature and 1037 ml of water are cautiously added dropwise. 173 ml of a 10% sodium hydroxide solution were then added dropwise and the solution was filtered. The solvent was removed under reduced pressure. The crude solution was admixed with 346 ml of 1 N sodium hydroxide solution and extracted 3 times with 345 ml of toluene each time. The organic phases are combined and the volatile constituents are removed under reduced pressure to obtain 76 g of (1S)-3-(methylamino)-1-(2-thienyl)-1-propanol (84% purity, 80% of theory).

reactant | lithium aluminium hydride | 52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-methyl-(3S)-3-hydroxy-3-(2-thienyl)propanamide | 86.4 g | CNC(C[C@@H](C=1SC=CC1)O)=O | C8H11NO2S
reactant | water | 1037 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 692 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1728 ml | O1CCCC1 | C4H8O
product | (1S)-3-(methylamino)-1-(2-thienyl)-1-propanol | 76 g | CNCC[C@H](O)C=1SC=CC1 | C8H13NOS
